US04206217
3-[4-(Methylimidazolin-2-yl)-phenyl]-1,2-benzisothiazole hydrochloride
26 g of 3-(4'-chloromethylphenyl)-1,2-benzisothiazole, 6.4 g of sulfur and 15 g of 1,2-diaminopropane in 400 ml of glycol monomethyl ether are heated for 15 hours at 110° C. After distilling off the solvent, the residue is dissolved in 50 g of methanol and this solution is stirred into 400 g of ethereal hydrochloric acid (15 g of HCl in diethyl ether), whilst cooling. The crystals formed are filtered off and dissolved in 300 parts of water, the solution is filtered and the filtrate is rendered alkaline with concentrated NaOH and extracted with methylene chloride. The methylene chloride phase is dried and 20 g of hydrogen chloride gas are passed in. 17 g of the desired end product are obtained as colorless crystals, melting at 243° C. The yield corresponds to 52% of theory.

reactant | 3-(4'-chloromethylphenyl)-1,2-benzisothiazole | 26 g | ClCC1=CC=C(C=C1)C1=NSC2=C1C=CC=C2 | C14H10ClNS
reactant | sulfur | 6.4 g | [S] | S
reactant | 1,2-diaminopropane | 15 g | NCC(C)N | C3H10N2
reactant | glycol monomethyl ether | 400 ml | COCCO | C3H8O2
product | 3-[4-(Methylimidazolin-2-yl)-phenyl]-1,2-benzisothiazole hydrochloride | Cl.CN1C(=NCC1)C1=CC=C(C=C1)C1=NSC2=C1C=CC=C2 | InChI=1S/C17H15N3S.ClH/c1-20-11-10-18-17(20)13-8-6-12(7-9-13)16-14-4-2-3-5-15(14)21-19-16;/h2-9H,10-11H2,1H3;1H
